Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1]=[C:2]([C:3]#[C:4][O:5][H:6])[C:7]([H:8])([H:9])[H:10]>>[C:3]#[C:4][O:5][H:6].[O:1]=[C:2][C:7]([H:8])([H:9])[H:10],4.9426709364
[H:1][C:2](=[C:3]=[C:4]([H:5])[H:6])[O:8][C:9][C:10]([H:11])([H:12])[H:13].[H:7]>>[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[H:7])[O:8][C:9][C:10]([H:11])([H:12])[H:13],-2.0164910932599995
[C:3]([H:4])([H:5])[C@:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],-5.412706332030001
[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])([H:4])[O:5][C:6]#[C:7][C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6]=[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.5999489677899998
[H:1][C:2][O:4]/[C:5]([H:6])=[C:7](\[H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:3]>>[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7](\[H:8])[O:9][C:10]([H:11])([H:12])[H:13],-3.9346167047300007
[C:2]=[C:3]([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[O:1]>>[O:1]=[C:2]=[C:3]([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-7.366258297130001
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C@@:8]([H:9])([C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8](=[C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:9],1.67134289674
[H:1][O:2]/[C:3]([C:4]([H:5])[H:6])=[C:7](/[H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[C:3](=[C:4]([H:5])[H:6])=[C:7]([H:8])[C:9]([H:10])([H:11])[O:12][H:13].[H:1][O:2],3.24063229385
[H:1][C:2][O:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[C:8]([H:9])([H:10])[O:11][H:12].[H:1][C:2][O:3][C:4]=[C:5]([H:6])[H:7],4.63786473943
[H:1][C:2]([H:3])=[C:4](/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])=[C:4](/[C:5]([H:6])=[C:7]/[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:8],4.71544634982
[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([C:7]#[C:9][H:10])[C:11]([H:12])([H:13])[H:14].[H:8]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([C:7]([H:8])=[C:9][H:10])[C:11]([H:12])([H:13])[H:14],-1.83834660681
[O:1]=[C:2]([H:3])[C:4](=[C:5][H:6])[O:7][H:8]>>[C:5][H:6].[O:1]=[C:2]([H:3])[C:4][O:7][H:8],7.750956118110001
[H:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])=[C:14]([H:15])[H:16]>>[H:1][O:2][C:3]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])=[C:14]([H:15])[H:16].[H:4],4.165499262830002
[O:1]=[C:2]([H:3])[C:4]([H:5])=[C:6]=[C:7]([H:8])[O:9][H:10]>>[H:3].[O:1]=[C:2]=[C:4]([H:5])/[C:6]=[C:7](/[H:8])[O:9][H:10],3.98448513289
[C:2](\[O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])=[C:11](\[H:12])[C:13]([H:14])([H:15])[H:16].[H:1]>>[H:1]/[C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])=[C:11](/[H:12])[C:13]([H:14])([H:15])[H:16],-4.83045320879
[H:1][C:2]#[C:3]/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:4]([H:5])#[C:6].[H:1][C:2]#[C:3][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],3.13091062822
[H:1][C:2]=[C:3]([O:4][H:5])[C@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]#[C:3][C@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13].[O:4][H:5],3.12708423501
[C:1][C:2]#[C:3][C:5]([H:6])([H:7])[H:8].[H:4]>>[C:1]#[C:2][C:3]([H:4])[C:5]([H:6])([H:7])[H:8],-3.93312561044
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])[C:7]#[C:8][O:10][H:11].[H:9]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])=[C:7]=[C:8]([H:9])[O:10][H:11],-3.79860089782
[C:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[H:11]>>[C:1]([H:6])#[C:7][C:8]([H:9])([H:10])[H:11].[C:2]([H:3])([H:4])=[C:5],-1.3795849060499998
[H:11].[H:1][C:2]=[C:3]([C:4]#[C:5][H:6])[C:7]([H:8])=[C:9][H:10]>>[H:1][C:2]=[C:3]([C:4]#[C:5][H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],-5.02236544101
[H:11].[H:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([O:8][H:9])[C:10]=[C:12]([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])([H:5])[C@@:6]([H:7])([O:8][H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],-4.87899201815
[H:1][C:2][O:4][C@:5]([H:6])([O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:3]>>[H:1][C:2]([H:3])[O:4][C@@:5]([H:6])([O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-3.78552744546
[C:2]#[C:3][O:4][C:5]([H:6])=[C:7]=[C:8]([H:9])[H:10].[H:1]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])=[C:7]=[C:8]([H:9])[H:10],-5.516027074069999
[C:10]([H:11])#[C:12][H:13].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])[H:9]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12][H:13],-1.43212028075
[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10],3.77045804879
[C:3]([H:4])#[C:5][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2]#[C:6][H:7]>>[H:1][C:2]=[C:3]([H:4])[C:5](=[C:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],1.07749903089
